US09422281B2
Step 2. (S)-3,3-difluorocyclobutyl 4-acetyl-7-(1-(azetidin-3-yl)-1H-pyrazol-4-yl)-3-methyl-3,4-dihydroquinoxaline-1(2H)-carboxylate
A 100-mL round-bottom flask was charged with (S)-4-acetyl-7-(1-(1-(tert-butoxycarbonyl)azetidin-3-yl)-1H-pyrazol-4-yl)-3-methyl-3,4-dihydroquinoxaline-1(2H)-carboxylate (300 mg, 0.51 mmol), trifluoroacetic acid (3 mL) and dichloromethane (5 mL). The resulting solution stirred for 1 h at room temperature. The pH of the solution was adjusted to 8 with 2 M aqueous potassium carbonate solution. The resulting mixture was extracted with dichloromethane (3×15 mL). The combined organic layers were dried over anhydrous sodium sulfate and concentrated under vacuum. The residue was purified by Prep-HPLC with the following conditions (Waters I): Column, Xbridge Prep C18 OBD column, Sum, 19×150 mm; mobile phase, Water (0.03% NH4OH) and CH3CN (16% CH3CN up to 34% in 10 min); Detector, UV 220&254 nm. This afforded (S)-3,3-difluorocyclobutyl 4-acetyl-7-(1-(azetidin-3-yl)-1H-pyrazol-4-yl)-3-methyl-3,4-dihydroquinoxaline-1(2H)-carboxylate (40 mg, 16%) of as a yellow solid. 1H NMR (300 MHz, CD3OD) δ ppm 1.16 (d, J=6.90 Hz, 3H), 1.92-2.17 (m, 8H), 2.28 (s, 3H), 3.41-59 (m, 1H), 4.02-4.11 (m, 2H), 4.18-4.32 (m, 3H), 5.03-5.21 (m, 2H), 5.31-5.42 (m, 1H), 7.39-7.51 (m, 2H), 7.94 (s, 1H), 8.07 (s, 1H), 8.19 (s, 1H). MS (ESI, pos. ion) m/z 446 [M+H]+.

reactant | (S)-4-acetyl-7-(1-(1-(tert-butoxycarbonyl)azetidin-3-yl)-1H-pyrazol-4-yl)-3-methyl-3,4-dihydroquinoxaline-1(2H)-carboxylate | 0.51 mmol, 300 mg | C(C)(=O)N1[C@H](CN(C2=CC(=CC=C12)C=1C=NN(C1)C1CN(C1)C(=O)OC(C)(C)C)C(=O)[O-])C
reactant | trifluoroacetic acid | 3 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | potassium carbonate | 2 M | C([O-])([O-])=O.[K+].[K+]
reactant | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | (S)-3,3-difluorocyclobutyl 4-acetyl-7-(1-(azetidin-3-yl)-1H-pyrazol-4-yl)-3-methyl-3,4-dihydroquinoxaline-1(2H)-carboxylate | C(C)(=O)N1[C@H](CN(C2=CC(=CC=C12)C=1C=NN(C1)C1CNC1)C(=O)OC1CC(C1)(F)F)C | C22H25F2N5O3
